US05686424
Following the procedure described in Example 154, treatment of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide (80 mg, 0.18 mmol) with benzyl chloroformate (0.039 mL, 0.27 mmol) provided 72 mg of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-carbobenzyloxy)aminophenyl)ethylamide as a foam.

reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide | 0.18 mmol, 80 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)N)NC([C@H]1NCCC1)=O)=O | C24H31N3O5
reactant | benzyl chloroformate | 0.27 mmol, 0.039 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-carbobenzyloxy)aminophenyl)ethylamide | 72 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | C32H37N3O7
